US06103708
2-(4-Bromo-benzyl)-4,5-dimethyl-furan
The title compound was prepared according to the procedure in Example 5, step 1 using commercial 2,3-dimethylfuran (5.00 g, 52.0 mmol), commercial 4-bromobenzylbromide (13.0 g, 52.0 mmol) and 2.5M n-BuLi/hexanes (20.8 mL, 52.0 mmol) in THF. Purification on Biotage KP-Sil eluting with 1% EtOAc/pet. ether gave 5.72 g (41%) of the title compound. 1H NMR (DMSO-d6) δ 1.84 (s, 3 H), 2.09 (s, 3 H), 3.83 (s, 2 H), 5.87 (s, 1 H), 7.17 (d, 2 H), 7.49 (d, 2 H).

reactant | 2,3-dimethylfuran | 52.0 mmol, 5.00 g | CC=1OC=CC1C | C6H8O
reactant | 4-bromobenzylbromide | 52.0 mmol, 13.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Bromo-benzyl)-4,5-dimethyl-furan | 5.72 g, 41% | BrC1=CC=C(CC=2OC(=C(C2)C)C)C=C1 | C13H13BrO
